US09428510B2
0.74 ml (9.8 mmol) of hydrazine is added to 2.6 g (9.80 mmol) of a solution of 3-chloro-6-iodopyrazine-2-carbonitrile in 15 ml of butanol. The reaction mixture is heated at 110° C. for 5 hours and then left at room temperature overnight. The suspended solid is filtered, rinsed with butanol and then dried in an oven at 50° C. to yield 2.2 g (86%) of 5-iodo-1H-pyrazolo[3,4-b]pyrazine-3-amine in the form of a brown solid.

reactant | hydrazine | 9.8 mmol, 0.74 ml | NN | H4N2
reactant | 3-chloro-6-iodopyrazine-2-carbonitrile | ClC=1C(=NC(=CN1)I)C#N | C5HClIN3
solvent | butanol | 15 ml | C(CCC)O | C4H10O
product | 5-iodo-1H-pyrazolo[3,4-b]pyrazine-3-amine | 2.2 g, 86% | IC=1N=C2C(=NC1)NN=C2N | C5H4IN5
